US04254116
10-Acetoxy-5,5-dimethyl-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine
A mixture of 3.53 g. (0.01 mole) of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine, 1.22 g. (0.012 mole) of acetic anhydride, and 5 ml. of pyridine was stirred at room temperature for 24 hours. The reaction mixture was evaporated in vacuo, and the residue was taken up in ether. The ether solution was washed with water, dried with anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by chromatography on a Florosil® activated aluminum magnesium silicate 22 mm×30 inch column with chloroform to give the pure product.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | 0.01 mole | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
reactant | acetic anhydride | 0.012 mole | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 10-Acetoxy-5,5-dimethyl-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | C(C)(=O)OC1=CC(=CC2=C1C=1C(=CC=NC1)C(O2)(C)C)C(C)C(CCCCC)C | C25H33NO3
